US09212196B2
Ethyl 4-formyl-2-methoxy-6-nitrophenoxyacetate
To a solution of 5-nitrovanilline (591 mg, 3.0 mmol) in DMF (9.0 mL) was added cesium carbonate (2.00 g, 6.16 mmol), followed by ethyl bromoacetate (3.33 mL, 30 mmol). The red mixture was left under stirring at 110° C. until it became yellow, and then for further 3 minutes. After evaporation of DMF under reduced pressure, 22 mL of water were added and the mixture was extracted with dichloromethane (60 mL). The organic phase was washed with brine (15 mL), dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography over silica gel (eluent: dichloromethane) to give 625 mg of a solid (74% yield). 1H NMR (250 MHz, CDCl3): δ 1.30 (t, J=7.2 Hz, 3H), 4.01 (s, 3H), 4.27 (q, J=7.2 Hz, 2H), 4.91 (s, 2H), 7.65 (s, 1H), 7.90 (s, 1H), 9.95 (s, 1H). 13C NMR (63 MHz, CDCl3): δ 14.6, 57.2, 62.0, 70.0, 113.9, 120.4, 132.0, 145.2, 145.9, 154.2, 168.5, 189.3.

reactant | 5-nitrovanilline | 3.0 mmol, 591 mg | [N+](=O)([O-])C=1C(=C(C=C(C=O)C1)OC)O | C8H7NO5
reactant | cesium carbonate | 6.16 mmol, 2.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 30 mmol, 3.33 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 9.0 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-formyl-2-methoxy-6-nitrophenoxyacetate | 625 mg, 74% yield | C(=O)C1=CC(=C(OCC(=O)OCC)C(=C1)[N+](=O)[O-])OC | C12H13NO7
